US04096170
A 50-ml round-bottomed flask provided with a magnetic stirrer was charged with 10 mmol of benzaldehyde, 10 mmol of 2-chloro-3,3,4,4-tetramethylcyclobutanone, 12 mmol of a cyanide, 20 ml of n-heptane and 1 ml of water. The rection mixture was stirred vigorously at a temperature of 70° C. Two experiments were carried out in this manner. Table III states the cyanides used and presents the yields of the alpha-cyanobenzyl 2,2,3,3-tetramethylcyclopropane-carboxylate formed.

reactant | benzaldehyde | 10 mmol | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-chloro-3,3,4,4-tetramethylcyclobutanone | 10 mmol | ClC1C(C(C1(C)C)(C)C)=O | C8H13ClO
reactant | cyanide | 12 mmol | [C-]#N
reactant | n-heptane | 20 ml | CCCCCCC | C7H16
solvent | water | 1 ml | O | H2O
product | alpha-cyanobenzyl 2,2,3,3-tetramethylcyclopropane-carboxylate | CC1(C(C1(C)C)C(=O)OC(C1=CC=CC=C1)C#N)C | C16H19NO2
